US06531495B1
A suspension of 10.0 g (28 mmol) of 2′-phthalimidomethylbiphenyl-2-carboxylic acid in 450 ml of methanol was treated with 20 ml of hydrazine hydrate and heated at 40° C. for 1.5 h. The reaction mixture was concentrated and the residue was taken up in 250 ml of methylene chloride. After filtering off undissolved 2,3-dihydrophthalazine-1,4-dione, the mother liquor was concentrated and 4.8 g of 2′-aminomethylbiphenyl-2-carboxylic acid were obtained.

reactant | 2′-phthalimidomethylbiphenyl-2-carboxylic acid | 28 mmol, 10.0 g | C1(C=2C(C(N1CC1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)O)=O)=CC=CC2)=O | C22H15NO4
reactant | hydrazine hydrate | 20 ml | O.NN
solvent | methanol | 450 ml | CO | CH4O
product | 2′-aminomethylbiphenyl-2-carboxylic acid | 4.8 g | NCC1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)O | C14H13NO2
